US08557805B2
6-[(Methylsulfonyl)methyl]pyridin-3-ol
To a solution of 6-[(methylsulfonyl)methyl]pyridin-3-yl benzenesulfonate (30 g) in ethanol (200 mL) and tetrahydrofuran (200 mL) was added 1N aqueous sodium hydroxide solution (190 mL), and the mixture was stirred at 80° C. for 3 hr. The reaction mixture was concentrated, 1N hydrochloric acid (190 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (13.9 g, yield 79%) as white crystals.

reactant | 6-[(methylsulfonyl)methyl]pyridin-3-yl benzenesulfonate | 30 g | C1(=CC=CC=C1)S(=O)(=O)OC=1C=NC(=CC1)CS(=O)(=O)C | C13H13NO5S2
reactant | sodium hydroxide | 1N, 190 mL | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-[(Methylsulfonyl)methyl]pyridin-3-ol | 13.9 g, yield 79% | CS(=O)(=O)CC1=CC=C(C=N1)O | C7H9NO3S
